US06310079B1
To a solution of (E)-2,6-difluorocinnamic acid (331 mg, 1.8 mmol) in benzene (10 ml) was added thionyl chloride (0.5 ml) and the mixture was heated to reflux for 60 min. Volatiles were removed by evaporation to give crude (E)-2,6-difluorocinnamoyl chloride. Free base of the titled compound was prepared from N-(2-pyridyl)-o-phenylenediamine (250 mg, 1.4 mmol) and (E)-2,6-difluorocinnamoyl chloride obtained as above according to the preparation of (E)-1-(2-pyridyl)-2-styryl-1H-benzimidazole Example 1, method A). The free base was dissolved with a 10% methanol solution of hydrogen chloride (5 ml). Concentration and recrystallization from ethyl acetate/ethanol yielded the titled compound.

reactant | (E)-2,6-difluorocinnamic acid | 1.8 mmol, 331 mg | FC1=C(/C=C/C(=O)O)C(=CC=C1)F | C9H6F2O2
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (E)-2,6-difluorocinnamoyl chloride | FC1=C(/C=C/C(=O)Cl)C(=CC=C1)F | C9H5ClF2O
